US05041453
A solution-suspension of 2-cyano-5-[3-(2-quinolinylmethyloxy)benzyloxy]-3-methylbenzo(b)thiophene (300 mg, 0.69 mmol), sodium azide (134 mg, 2.1 mmol) and ammonium chloride (110.3 mg, 2.1 mmol) in DMF (3 ml) is heated to 80° C. for 16 hours. The reaction mixture is cooled to room temperature and poured over ice-water. The pH is adjusted to 10 (1N NaOH) and the aqueous layer washed with ether and then acidified to pH 3. The precipitated solid is filtered and washed successively with water, ethanol and methylene chloride and dried to afford 5-(5-[3-(2quinolinylmethyloxy)benzyloxy]-3-methylbenzo(b)thiophen -2-yl)tetrazole (M.P. 195-196° C. (dec)).

reactant | 2-cyano-5-[3-(2-quinolinylmethyloxy)benzyloxy]-3-methylbenzo(b)thiophene | 0.69 mmol, 300 mg | C(#N)C1=C(C2=C(S1)C=CC(=C2)OCC2=CC(=CC=C2)OCC2=NC1=CC=CC=C1C=C2)C | C27H20N2O2S
reactant | sodium azide | 2.1 mmol, 134 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 2.1 mmol, 110.3 mg | [Cl-].[NH4+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 5-(5-[3-(2quinolinylmethyloxy)benzyloxy]-3-methylbenzo(b)thiophen -2-yl)tetrazole | N1=C(C=CC2=CC=CC=C12)COC=1C=C(COC2=CC3=C(SC(=C3C)C3=NN=NN3)C=C2)C=CC1 | C27H21N5O2S
